US07435735B2
Step 2: tert-Butyl 1-{[methoxy(methyl)amino]carbonyl}cyclopentylcarbamate
To a solution of 1-[(tert-butoxycarbonyl)amino)cyclopentanecarboxylic acid (5.89 g, 25.68 mmol) in CH2Cl2 (25 mL) were added dimethylhydroxylamine hydrochloride (2.51 g, 25.68 mmol) and N-methylmorpholine (2.82 mL, 25.68 mmol), sequentially. The mixture was cooled to 0° C., treated with 1.0M DCC in CH2Cl2, and stirred under an atmosphere of nitrogen while warning to room temperature overnight. The mixture was filtered, washing with CH2Cl2, and the resulting filtrate was concentrated in vacuo to afford an oil. The oil was re-suspended in EtOAc, and the mixture was filtered once more. The resulting filtered was subjected to column chromatography eluting with a gradient of 0-100% EtOAc/hexanes. Collection and concentration of the appropriate fractions afforded the product as an opaque white solid.

reactant | 1-[(tert-butoxycarbonyl)amino)cyclopentanecarboxylic acid | 25.68 mmol, 5.89 g | C(C)(C)(C)OC(=O)NC1(CCCC1)C(=O)O | C11H19NO4
reactant | dimethylhydroxylamine hydrochloride | 25.68 mmol, 2.51 g | Cl.CN(O)C
reactant | N-methylmorpholine | 25.68 mmol, 2.82 mL | CN1CCOCC1 | C5H11NO
reactant | DCC | 1.0M | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-Butyl 1-{[methoxy(methyl)amino]carbonyl}cyclopentylcarbamate | CON(C(=O)C1(CCCC1)NC(OC(C)(C)C)=O)C | C13H24N2O4
